US08703946B2
A 1M solution of lithium aluminum hydride in THF (6.98 mL, 6.98 mmol) was added dropwise to a stirred solution of 2-(2-tert-butoxycarbonylamino-ethyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (2.72 g, 6.98 mmol) in THF (47 mL) under N2 at 0° C. The mixture was stirred at room temperature for 1 hour and diluted with AcOEt. Na2SO4.10H2O was added at 0° C. and the mixture was stirred for 15 minutes at this temperature, filtered through a pad of diatomaceous earth and then washed with additional AcOEt. The solvents were evaporated in vacuo to yield [2-(5-hydroxymethyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester (2.5 g, 76% yield) as a white solid that was used in the next step without further purification.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(2-tert-butoxycarbonylamino-ethyl)-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 6.98 mmol, 2.72 g | C(C)OC(=O)C=1N(N=C(C1)COC1=CC=CC=C1)CCNC(=O)OC(C)(C)C | C20H27N3O5
solvent | THF | 47 mL | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 6.98 mmol, 6.98 mL | C1CCOC1 | C4H8O
product | [2-(5-hydroxymethyl-3-phenoxymethyl-pyrazol-1-yl)-ethyl]-carbamic acid tert-butyl ester | 2.5 g, 76% yield | C(C)(C)(C)OC(NCCN1N=C(C=C1CO)COC1=CC=CC=C1)=O | C18H25N3O4
